US06310095B1
N--t-B utoxycarbonyl-O-benzylhydroxylamine
To a stirred solution at 0° C. of O-benzylhydroxylamine hydrochloride in THF was added diisopropylethylamine (2.5 equiv.) and di-t-butyldicarbonate (1.2 equiv.). Reaction stirred one hour at 0° C. and overnight at ambient temperature. Reaction concentrated in vacuo. Residue taken up in EtOAc and washed with water, 1.0M NaHCO3, 1N H3PO4, and brine. Organic layer dried with Na2SO4, filtered, and evaporated.

reactant | O-benzylhydroxylamine hydrochloride | Cl.C(C1=CC=CC=C1)ON
reactant | diisopropylethylamine | 2.5 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-t-butyldicarbonate | 1.2 equiv. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
product | N--t-B utoxycarbonyl-O-benzylhydroxylamine | C(C)(C)(C)OC(=O)NOCC1=CC=CC=C1 | C12H17NO3
